US04366170
A. α-Phenylacrylonitrile
Phenylacetonitrile (117 g, 1.0 mol), 37% formaldehyde solution 85 g, 1.0 mole of formaldehyde), ethanol (100 ml), and 40% benzyltrimethylammonium hydroxide (Triton B) (2 ml) were mixed in a 500 ml 3-necked round-bottomed glass flask equipped with a magnetic stirrer, water-cooled condenser and thermometer. A static atmosphere of argon was maintained throughout the course of the reaction. The reaction mixture was mixed and heated to reflux temperature whereupon the heat of reaction was sufficient to maintain the reaction without external heating. After ten minutes the mixture had formed two layers. It was cooled and the top layer containing mostly alcohol and water was separated. The lower viscous yellow layer was dissolved in acetone and charged to a distillation flask together with 0.1 g hydroquinone. Distillation under reduced pressure yielded 30 g of a water-white distillate boiling at 95°-100°/1.0 mm Hg (23 percent of theory). 1H NMR: (CDCl3, TMS), δ7.0 (S, 5H), 6.1, 5.85 (s, s, 2 H).

reactant | Phenylacetonitrile | 1.0 mol, 117 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | formaldehyde | 1.0 mole, 85 g | C=O | CH2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | benzyltrimethylammonium hydroxide | 2 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | O | H2O
product | α-Phenylacrylonitrile | C1(=CC=CC=C1)C(C#N)=C | C9H7N
